US05100895
10-Bromo-5-chloro-2,3-dihydroimidazo[1,2-c]quinazoline
A suspension of 5-bromo-2-chloro-4-(2-hydroxyethylamino)quinazoline (2.3 g, 7.6 mmol) in phosphorus oxychloride (POCl3) (60 ml) was heated at reflux for 5 h. The excess of POCl3 was evaporated and the residue partioned between dichloromethane (50 ml) and 1M aqueous sodium hydroxide (50 ml). The organic layer was washed with water (25 ml), dried over sodium sulphate and evaporated. The residue was triturated with ether (25 ml) and the precipitate collected by filtration to give the title compound as colourless crystals, m.p. 220°-23° C.

reactant | 5-bromo-2-chloro-4-(2-hydroxyethylamino)quinazoline | 7.6 mmol, 2.3 g | BrC1=C2C(=NC(=NC2=CC=C1)Cl)NCCO | C10H9BrClN3O
solvent | phosphorus oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 10-Bromo-5-chloro-2,3-dihydroimidazo[1,2-c]quinazoline | BrC=1C=2C=3N(C(=NC2C=CC1)Cl)CCN3 | C10H7BrClN3
